US07968581B2
Step 1: 2-bromo-1-(3-methylphenyl)ethanone
To a solution of 1-(3-methylphenyl)ethanone (2 g) in ethyl ether (20 mL) is added bromine (726 μL) at 0° C. The mixture is treated with an aqueous solution of sodium bicarbonate, extracted with ethyl ether, dried over magnesium sulfate, concentrated and purified on silica gel (ethyl acetate/cyclohexane 0/100) to give the desired compound.

reactant | 1-(3-methylphenyl)ethanone | 2 g | CC=1C=C(C=CC1)C(C)=O | C9H10O
reactant | bromine | 726 μL | BrBr | Br2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl ether | 20 mL | C(C)OCC | C4H10O
product | 2-bromo-1-(3-methylphenyl)ethanone | BrCC(=O)C1=CC(=CC=C1)C | C9H9BrO
